US07939666B2
Stage 3: (S)-(4-Amino-benzenesulfonylamino)-phenyl-acetic acid cyclopentyl ester
A mixture of (S)-(4-Nitro-benzenesulfonylamino)-phenyl-acetic acid cyclopentyl ester (5.29 g, 13.1 mmol) and 10% Pd/C (5.0 g) in EtOAc (350 ml) was hydrogenated under balloon pressure at room temperature for 24 h. The Pd/C catalyst was filtered off through a pad of celite. The filtrate was concentrated under reduced pressure to yield the required product (4.54 g, 92% yield). LCMS purity 100%, m/z 375 [M++H]+.

reactant | (S)-(4-Nitro-benzenesulfonylamino)-phenyl-acetic acid cyclopentyl ester | 13.1 mmol, 5.29 g | C1(CCCC1)OC([C@H](C1=CC=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])=O | C19H20N2O6S
solvent | EtOAc | 350 ml | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 5.0 g | [Pd] | Pd
product | (S)-(4-Amino-benzenesulfonylamino)-phenyl-acetic acid cyclopentyl ester | 4.54 g, 92% yield | C1(CCCC1)OC([C@H](C1=CC=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)N)=O | C19H22N2O4S
